US06613781B2
Preparation of 5-Fluoro-1-(phenylsulfonyl)-3-(1,2,5,6-tetrahydro-3-pyridinylmethyl)-1H-indole hydrochloride
A solution of tert-butyl 5-{[5-fluoro-1-(phenylsulfonyl)-1H-indol-3-yl]methyl}-3,6-dihydro-1(2H)-pyridinecarboxylate (320 mg, 0.68 mmol) in methanol and HCl (1M in Et2O, 1.0 ml) is heated at reflux temperature under nitrogen for 18 hr, cooled and concentrated in vacuo. The resultant residue is treated with ether and filtered. The filtercake is dried in vacuo to afford the title compound as a brown solid, 211 mg, mp 96° C. (dec.), identified by NMR and mass spectral analyses.

reactant | tert-butyl 5-{[5-fluoro-1-(phenylsulfonyl)-1H-indol-3-yl]methyl}-3,6-dihydro-1(2H)-pyridinecarboxylate | 0.68 mmol, 320 mg | FC=1C=C2C(=CN(C2=CC1)S(=O)(=O)C1=CC=CC=C1)CC1=CCCN(C1)C(=O)OC(C)(C)C | C25H27FN2O4S
reactant | HCl | 1M, 1.0 ml | Cl | ClH
solvent | methanol | CO | CH4O
product | 5-Fluoro-1-(phenylsulfonyl)-3-(1,2,5,6-tetrahydro-3-pyridinylmethyl)-1H-indole hydrochloride | Cl.FC=1C=C2C(=CN(C2=CC1)S(=O)(=O)C1=CC=CC=C1)CC=1CNCCC1 | InChI=1S/C20H19FN2O2S.ClH/c21-17-8-9-20-19(12-17)16(11-15-5-4-10-22-13-15)14-23(20)26(24,25)18-6-2-1-3-7-18;/h1-3,5-9,12,14,22H,4,10-11,13H2;1H
